US07622471B2
Piperidine-2-carboxylic acid methyl amide
The general procedure of Referential Example 131 was repeated through use of N-benzyloxypiperidine-2-carboxylic acid (2.0 g) and 1.0 M methylamine in tetrahydrofuran (4 mL), to thereby give the title compound as an oily product (970 mg, quantitative amount).

reactant | N-benzyloxypiperidine-2-carboxylic acid | 2.0 g | C(C1=CC=CC=C1)ON1C(CCCC1)C(=O)O | C13H17NO3
reactant | methylamine | 1.0 M | CN | CH5N
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | Piperidine-2-carboxylic acid methyl amide | CNC(=O)C1NCCCC1 | C7H14N2O
